US07317125B2
Preparation of thiophene-2-carboxylic acid N′-[2-(5-fluoro-2′-trifluoromethoxy-biphenyl-2-yloxy)-acetyl]-N′-isopropyl hydrazide
A solution of thiophene-2-carboxylic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide (263 mg, 0.63 mmol) in DME (5 ml)/2M Na2CO3 (1.10 ml, 2.22 mmol) was with 2-trifluoromethoxyphenylboronic acid (196 mg, 0.95 mmol) and Pd[PPh3]4 (146 mg, 0.13 mmol) in a microwave oven at 150° C. for 10 min. The reaction mixture was partitioned between water and DCM. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude was adsorbed on silica and purified on a silica gel column with a 30-50% ethyl acetate/hexane gradient to afford the product as a solid (176 mg, 56%). MS m/e 497.41 (M+H+)

reactant | thiophene-2-carboxylic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide | 0.63 mmol, 263 mg | BrC1=C(OCC(=O)N(NC(=O)C=2SC=CC2)C(C)C)C=CC(=C1)F | C16H16BrFN2O3S
reactant | Na2CO3 | 2.22 mmol, 2M, 1.10 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-trifluoromethoxyphenylboronic acid | 0.95 mmol, 196 mg | FC(OC1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O3
solvent | DME | 5 ml | COCCOC | C4H10O2
product | thiophene-2-carboxylic acid N′-[2-(5-fluoro-2′-trifluoromethoxy-biphenyl-2-yloxy)-acetyl]-N′-isopropyl hydrazide | 176 mg, 56% | FC=1C=CC(=C(C1)C1=C(C=CC=C1)OC(F)(F)F)OCC(=O)N(NC(=O)C=1SC=CC1)C(C)C | C23H20F4N2O4S
